2107-05-25 05:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB, AFib with RVR
   24 Hour Events:
 EKG - At [**2107-5-24**] 04:11 PM
 URINE CULTURE - At [**2107-5-25**] 02:00 AM
   -Remained in Afib overnight with some improvement in rate after
   starting IV Amiodarone.  IV Dilt gtt titrated off given no effect in
   controlling rate.  Refusing oral metoprolol and verapamil due to
   delirium and paranoia, but was able to take single dose Metoprolol 50mg
   this morning.
   -Started on standing haldol for delirium/agitation per psych recs.
   - Per nursing staff, pt continues to have blood per rectum; surgery
   aware
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-5-23**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-5-24**] 04:31 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2107-5-24**] 09:50 AM
   Metoprolol - [**2107-5-24**] 11:14 AM
   Diltiazem - [**2107-5-24**] 03:40 PM
   Haloperidol (Haldol) - [**2107-5-25**] 02:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: NPO
   Psychiatric / Sleep: Agitated, Delirious
   Flowsheet Data as of  [**2107-5-25**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 124 (81 - 140) bpm
   BP: 108/55(68) {72/33(26) - 150/86(91)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,377 mL
                                                                     71 mL
   PO:
             TF:
   IVF:
                                                                  1,677 mL
                                                                     71 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,805 mL
                                                                    120 mL
   Urine:
                                                                  2,805 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -428 mL
                                                                    -49 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place (hospital), Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   216 K/uL
   7.7 g/dL
   107 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.5 mEq/L
   18 mg/dL
   103 mEq/L
   146 mEq/L
   29.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2107-5-23**]  04:43 PM
                             [**2107-5-23**]  10:36 PM
                             [**2107-5-23**]  11:53 PM
                             [**2107-5-24**]  12:07 AM
                             [**2107-5-24**]  02:50 AM
                             [**2107-5-24**]  05:08 AM
                             [**2107-5-24**]  02:18 PM
                             [**2107-5-24**]  04:20 PM
                             [**2107-5-24**]  08:05 PM
                             [**2107-5-24**]  11:58 PM
   WBC
   7.0
   6.9
   Hct
   25.0
   24.4
   23.8
   25.5
   32.8
   28.2
   29.2
   Plt
   202
   216
   Cr
   0.7
   0.7
   0.6
   TropT
   0.04
   TCO2
   31
   33
   Glucose
   163
   137
   115
   107
   Other labs: PT / PTT / INR:14.7/32.1/1.3, CK / CKMB /
   Troponin-T:215/5/0.04, Lactic Acid:0.9 mmol/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOXEMIA
 DELIRIUM / CONFUSION
 TACHYCARDIA, OTHER
 .H/O [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   DYSPNEA / HYPOXIA
   Initially with ongoing evidence of worsening pulmonary edema, now more
   stable with steady O2 sats on a high flow venti mask. Unclear reason
   for patient
s pulmonary edema. No past dx of heart failure. Currently
   cardiac enzymes cycled and were flat.  EKG changes on admission were
   probably c/w demand [**2-7**] afib and tachycardia, but were possibly
   concerning for ischemia though patient also denies any chest pain.
   There was no evidence of R heart strain on EKG or TTE, and patient with
   no signs of R heart failure currently peripherally. Initial CXR was not
   symmetrical, with the concern for possible aspiration
 pneumonia
   although evolving pulm edema is probably still more likely; lack of
   fever not persuasive argument against PNA given pt age.  ABx were
   discontinued [**5-24**].
   -          cardiac enzymes flat x 3 (Tn  0.04 x 3, CK-MB 5 x 3)
   -          cardiac echo: mildly elongated Left atrium, normal LVEF,
   moderate MR though possibly underestimated due to image quality.
   -          Will hold off on CTA now given work up that does not
   otherwise suggest PE (no evidence of R heart strain on Echo or EKG,
   negative LENIs)
   -          Follow EKG
   -          Hi-flow mask for now, low threshold for BiPAP, though
   patient has remained in the high 90
s on high flow mask
   -          Consider afterload reduction if patient continues to have
   flash pulmonary edema
   -          Vanc/Zosyn discontinued.
   -          Blood cultures pending with no growth to date
   -          Giving aspirin
   AFIB w/RVR
   Patient remained in AFib w/RVR throughout most of yesterday.  Goal was
   to titrate up oral meds, but patient refused to take them throughout
   the day.  A trial of IV diltiazem was attempted without successful
   control of her HR.  Patient was previously in Afib but not RVR on
   admission.  Net LOS fluid balance is -2.5L thus far with mod MR seen on
   echo.
   -          Encourage oral meds: metoprolol/verapamil
   -          Weaning IV diltiazem gtt off
   -          If still [**Last Name (LF) 280**], [**First Name3 (LF) **] try digoxin next for rate control
   -          Continue ASA daily
   -          If still with poor control of AFib w/RVR consider cardiology
   consult.
   -
   DELIRIUM
   Hallucinating, some agitation (picking at bedclothes); remains oriented
   to place, year, and situation. Most likely hospital delirium. Question
   of benzo w/d but no tremor; anxiety not a prominent feature. Hypoxia is
   likely contributor although she reportedly has had this problem since
   after her surgery, arguing for earlier onset of delirium. Was on
   reglan, this was d/c
ed earlier by surgical team.
   -          Continue standing Haldol 3mg [**Hospital1 7**] with 2-3mg PRN agitation
   overnight per psych recs
   -          Unlikely that symptoms are due to benzo w/d per psych
   -          UA, UCx for infectious work up
   -          EKG in AM to monitor QT interval
   ANEMIA
   Patient noted to have maroon stools and dropping Hct requiring blood
   transfusions overnight with improvement in Hct.
   Surgery aware but plans to follow Hcts, as some amount of blood with
   stools is expected after bowel resection surgery. Pt [**Hospital1 280**] with Afib
   w/RVR but otherwise hemodynamically stable.
   - Continue Q6 Hct checks
   - Goal Hct > 25
   POST-ABDOMINAL SURGERY
   Cautious low-dose opiates for pain prn. Concern for delirium.
   -          Monitor BMs closely.
   -          Increase bowel regimen.
   -          Per surgery, may advance diet given +flatus; would do so v
   cautiously given delirium, supervised sips only for now, ADAT if safe
   DMII
   Holding home metformin. Continue ISS, FSBS.
   HTN
   While in unit moving atenolol back to metoprolol, starting this at MN
   tonight given has already received atenolol. Normotensive currently in
   setting of afib, received atenolol and verapamil.
   -      advancing metoprolol, holding atenolol, for greater speed of
   response and flexibility
   -      continue verapamil but see below
   PAIN
   Can receive prn opiates if needed. Given delirium, and b/c pt now
   denying pain, have not put this in as an order yet, but monitor
   closely.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2107-5-23**] 08:45 AM
   20 Gauge - [**2107-5-23**] 10:43 PM
   18 Gauge - [**2107-5-24**] 02:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-05-26 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - mental status drastically improved; stopped standing Haldol
   - stopped amio drip; cards consulted, recommended increasing lopressor
   to 50mg QID, continue verapamil (which has been effective)
   - more tachypneic, net in 200-300, -->40 mg IV lasix (put out a total
   of ~1L)
   - okay to hold off on CTA until morning, since patient not agreeable
   tonight
   - Hct trended downward 31.5-->29.7-->28.6, but no transfusion given
   - Surgery does not want to do anything re: lower GI bleed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-5-23**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-5-24**] 04:31 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-5-26**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 119 (68 - 131) bpm
   BP: 136/97(104) {92/44(58) - 168/102(119)} mmHg
   RR: 15 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,081 mL
                  PO:
                  TF:
   IVF:
                                                                  1,081 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    180 mL
   Urine:
                                                                  2,575 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,494 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: Laying comfortably in bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: S1 & S2 irregular and fast
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place (hospital), Movement: Purposeful
   Labs / Radiology
   228 K/uL
   10.2 g/dL
   186 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   14 mg/dL
   102 mEq/L
   142 mEq/L
   31.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2107-5-24**]  05:08 AM
                             [**2107-5-24**]  02:18 PM
                             [**2107-5-24**]  04:20 PM
                             [**2107-5-24**]  08:05 PM
                             [**2107-5-24**]  11:58 PM
                             [**2107-5-25**]  03:54 AM
                             [**2107-5-25**]  11:05 AM
                             [**2107-5-25**]  03:20 PM
                             [**2107-5-25**]  10:31 PM
                             [**2107-5-26**]  03:34 AM
   WBC
   6.5
   7.3
   Hct
   25.5
   32.8
   28.2
   29.2
   31.5
   29.7
   28.6
   30.8
   31.8
   Plt
   218
   228
   Cr
   0.6
   0.6
   0.5
   0.6
   Glucose
   107
   105
   119
   186
   Other labs: PT / PTT / INR:13.5/24.4/1.2, CK / CKMB /
   Troponin-T:215/5/0.04, ALT / AST:17/26, Alk Phos / T Bili:49/0.7,
   Lactic Acid:0.9 mmol/L, Albumin:3.2 g/dL, LDH:212 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: Vascular congestion, otherwise improved
   Microbiology: UCx Pending
   Assessment and Plan
   An 83 yo lady s/p [**Hospital 7654**] transferred to the [**Hospital Unit Name 1**] for hypoxia
   from pulmonary edema.
   Pulmonary Edema: The patient is currently requiring supplemental O2 2L
   by nasal cannula but is otherwise stable.
   - Further diuresis pending hemodynamic stability
   - Ambulation to decrease atelectasis, improve pulmonary function
   - Manage flash pulmonary edema with lasix, control BP
   AFIB w/RVR: Metoprolol 50 QID, Verapamil 120mg PO BID.  Verapamil
   appears to be more effective in controlling her rate.  We will make
   changes according to cardiology recommendations and the patients
   hemodynamics.
   - Continue Metoprolol, Verapamil for now
   - Cards following, appreciate recommendations
   DELIRIUM: Resolved
   POST-ABDOMINAL SURGERY:  The patient continues to pass maroon stools.
   Hct stable.  Surgery is aware and recommends no intervention at this
   time.
   - Q8h Hcts, Transfuse <35 (Stable ~ 30)
   -          Monitor BMs closely.
   -          Per surgery, may advance diet given +flatus
   -          Tylenol standing for pain
   DMII
   Holding home metformin. Continue ISS, FSBS.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2107-5-23**] 08:45 AM
   20 Gauge - [**2107-5-23**] 10:43 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU, Possible call out pending rate control

2107-05-27 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased metoprolol to 100mg PO TID, verapamil to 120mg PO TID
   - Rate controlled, short episodes of bradycardia to 50s, resumed 100s
   in AM
   - Decreased UOP (~15-20/hr), given 1L NS over 3 hours and UOP improved
   - Started subQ heparin per surgery
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-5-27**] 05:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-5-27**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 93 (59 - 127) bpm
   BP: 135/89(100) {92/30(46) - 137/97(103)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64.6 kg (admission): 65.8 kg
             Total In:
                                                                    980 mL
                                                                  1,071 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    500 mL
                                                                  1,071 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    122 mL
   Urine:
                                                                  1,130 mL
                                                                    122 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                    949 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Gen: Laying comfortably in bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: S1 & S2 irregular and fast
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place (hospital), Movement: Purposeful
   Labs / Radiology
   234 K/uL
   9.5 g/dL
   94 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   13 mg/dL
   107 mEq/L
   143 mEq/L
   29.6 %
   7.1 K/uL
        [image002.jpg]
                             [**2107-5-24**]  04:20 PM
                             [**2107-5-24**]  08:05 PM
                             [**2107-5-24**]  11:58 PM
                             [**2107-5-25**]  03:54 AM
                             [**2107-5-25**]  11:05 AM
                             [**2107-5-25**]  03:20 PM
                             [**2107-5-25**]  10:31 PM
                             [**2107-5-26**]  03:34 AM
                             [**2107-5-26**]  03:04 PM
                             [**2107-5-27**]  04:22 AM
   WBC
   6.5
   7.3
   8.2
   7.1
   Hct
   28.2
   29.2
   31.5
   29.7
   28.6
   30.8
   31.8
   32.1
   29.6
   Plt
   [**Telephone/Fax (3) 7682**]34
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   Glucose
   107
   105
   119
   186
   168
   94
   Other labs: PT / PTT / INR:13.5/25.5/1.2, CK / CKMB /
   Troponin-T:215/5/0.04, ALT / AST:17/26, Alk Phos / T Bili:49/0.7,
   Lactic Acid:0.9 mmol/L, Albumin:3.2 g/dL, LDH:212 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: Chest CTA: 1. No pulmonary embolism.
   2. Bilateral peribronchiolar foci of ground-glass opacity, slightly
   apical
   predominant. Given trend over recent radiographs, these findings could
   represent residual effects of recent pulmonary edema. The possibility
   of an
   infectious process, particularly viral infection, should also be
   considered.
   COP could be considered, if other diagnoses have been excluded.
   3. Cardiomegaly, with prominent left atrial enlargement.
   4. Small hiatal hernia.
   Microbiology: [**5-25**] UCx: Negative
   Assessment and Plan
   An 83 yo lady s/p [**Hospital 7654**] transferred to the [**Hospital Unit Name 1**] for hypoxia
   from pulmonary edema.  Her Afib is rate controlled and she is ready for
   return to the surgical service.
   Pulmonary Edema: The patient is currently requiring supplemental O2 2L
   by nasal cannula but is otherwise stable.
   - Ambulation to decrease atelectasis, improve pulmonary function
   - Manage flash pulmonary edema with lasix, control BP
   - PT Consult
   Decreased UOP: The patient
s urine output decreased overnight and did
   respond to fluid challenges.  She was likely overdiuresed and needs
   time to mobilize fluid from her extravascular space.
   - Goal UOP 30/hr, 500mL fluid challenges PRN.
   AFIB w/RVR: Metoprolol 100 TID, Verapamil 120mg PO BID.  Verapamil
   appears to be more effective in controlling her rate, however she was
   bradycardic overnight with an extra verapamil dose. We will make
   changes according to cardiology recommendations and the patients
   hemodynamics.
   - Continue Metoprolol, Verapamil for now
   - Cards following, appreciate recommendations
   DELIRIUM: Resolved
   POST-ABDOMINAL SURGERY:  The patient continues to pass maroon stools.
   Hct stable.  Surgery is aware and recommends no intervention at this
   time.
   - Q8h Hcts, Transfuse <35 (Stable ~ 30)
   -          Monitor BMs closely.
   -          Per surgery, may advance diet given +flatus
   -          Tylenol standing for pain
   DMII
   Holding home metformin. Continue ISS, FSBS.
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2107-5-23**] 08:45 AM
   20 Gauge - [**2107-5-23**] 10:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor